US06326375B1
Preparation of 5-fluoro-3-oxo-N-(5-phenyl-2-pyrazinyl)spiro[isobenzo-furan-1(3H),4′-piperidine]-1′-carboxamide
A mixture of 5-fluorospiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride (64 mg), phenyl N-(5-phenyl-2-pyrazinyl)carbamate (73 mg) and triethylamine (174 μL) in chloroform (5 mL) was stirred at 80° C. for 2 hours. The reaction mixture was poured into water and extracted with chloroform (20 mL). The organic layer was washed with saturated saline solution (20 mL), then dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=4/1 to 1/2) and recrystallized from ethyl ether-hexane to give the subject compound (100 mg) as colorless crystals (melting point 236-238° C.).

reactant | 5-fluorospiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride | 64 mg | Cl.FC=1C=C2C(OC3(CCNCC3)C2=CC1)=O
reactant | phenyl N-(5-phenyl-2-pyrazinyl)carbamate | 73 mg | C1(=CC=CC=C1)C=1N=CC(=NC1)NC(OC1=CC=CC=C1)=O | C17H13N3O2
reactant | triethylamine | 174 μL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-fluoro-3-oxo-N-(5-phenyl-2-pyrazinyl)spiro[isobenzo-furan-1(3H),4′-piperidine]-1′-carboxamide | 100 mg | FC=1C=C2C(OC3(CCN(CC3)C(=O)NC3=NC=C(N=C3)C3=CC=CC=C3)C2=CC1)=O | C23H19FN4O3
